US05594023
A) 5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)-1-(4-nitrobenzenesulfonyl)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 11 from 7.03 g of 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)indol-2-one and 5.73 g of 4-nitrobenzenesulfonyl chloride. Chromatography on silica using DCM as the eluent gives 7.76 g of the expected product after crystallization from iso ether. M.p.=220°-221° C.

reactant | 5-chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)indol-2-one | 7.03 g | ClC=1C=C2C(C(NC2=CC1)=O)(NC)C1=C(C=CC=C1)Cl | C15H12Cl2N2O
reactant | 4-nitrobenzenesulfonyl chloride | 5.73 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 5-Chloro-3-(2-chlorophenyl)-1,3-dihydro-3-(methylamino)-1-(4-nitrobenzenesulfonyl)indol-2-one | 7.76 g | ClC=1C=C2C(C(N(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])=O)(NC)C1=C(C=CC=C1)Cl | C21H15Cl2N3O5S
